US05856474
28) 7-Amino-3-(2-phenyl)ethenyl-3-cephem-4-carboxylic acid
A suspension of 0.3 g of 7-amino-3-formyl-3-cephem-4-carboxylic acid in 3 ml of THF is treated at room temperature with 1.4 ml of BSA. The reaction mixture is stirred at room temperature for 10 minutes. A clear solution is obtained containing N,O-bistrimethylsilyl-7-amino-3-formyl-3-cephem-4-carboxylic acid. The solution is cooled to 0° and treated with a solution of 0.53 g of phenylmethylene triphenylphosphorane in 4 ml of THF. After 24 hours stirring at 0° the reaction mixture is worked up as described in example 23). A mixture of the isomers (6 parts Z-isomer and 11 parts E-isomer) is obtained.

reactant | 7-amino-3-formyl-3-cephem-4-carboxylic acid | 0.3 g | NC1[C@@H]2N(C(=C(CS2)C=O)C(=O)O)C1=O | C8H8N2O4S
reactant | phenylmethylene triphenylphosphorane | 0.53 g | C1(=CC=CC=C1)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H21P
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | 7-Amino-3-(2-phenyl)ethenyl-3-cephem-4-carboxylic acid | NC1[C@@H]2N(C(=C(CS2)C=CC2=CC=CC=C2)C(=O)O)C1=O | C15H14N2O3S
